US08034945B2
(b). 4-(3-Bromo-4-hydroxy-5-nitro-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile
A mixture of 3-bromo-4-hydroxy-5-nitro-benzaldehyde (2 g), 3-aminocrotonitrile (667 mg) and 5-propylcyclohexane-1,3-dione (1.25 g) in ethanol (75 ml) was heated to reflux for 17 h. The mixture was concentrated in vacuo. The residue was purified by chromatography on silicagel in heptane/ethyl acetate 1/0→0/1 (v/v) as eluent.

reactant | 3-bromo-4-hydroxy-5-nitro-benzaldehyde | 2 g | BrC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H4BrNO4
reactant | 3-aminocrotonitrile | 667 mg | C/C(=C\C#N)/N | C4H6N2
reactant | 5-propylcyclohexane-1,3-dione | 1.25 g | C(CC)C1CC(CC(C1)=O)=O | C9H14O2
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4-(3-Bromo-4-hydroxy-5-nitro-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | BrC=1C=C(C=C(C1O)[N+](=O)[O-])C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C20H20BrN3O4
